US20010037039A1
3-[5-Methyl-3-(2-(N,N-bis(carboxymethyl)aminosulfonyl)phenylsulfonyloxy) Phenoxy]propoxyguanidine
The title compound was prepared in 87% yield from 3-[5-methyl-3-(2-(N,N-bis(ethoxycarbonylmethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride, as prepared in step b of Example 57, in a manner analogous to Example 27. 1H-NMR (300 MHz, DMSO-d6) δ8.29 (d, J=7.0 Hz, 1H), 8.10 (d, J=7.6 Hz, 1H), 7.97 (t, J=7.6 Hz, 1H), 7.84 (t, J=7.6 Hz, 1H), 7.63 (br s, 4H), 6.72 (s, 1H), 6.58 (s, 1H), 6.49 (s, 1H), 4.13 (s, 4H), 3.97 (t, J=6.3 Hz, 2H), 3.90 (t, J=6.3 Hz, 2H), 2.23 (s, 3H), 2.03 (pentet, J=6.2 Hz, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C21H26N4O11S2: 575.1 (M+H), 597.1 (M+Na), 613.1 (M+K). Found: 575.1, 597.0, 613.1.

reactant | 3-[5-methyl-3-(2-(N,N-bis(ethoxycarbonylmethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CC(=O)OCC)CC(=O)OCC
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | 3-[5-Methyl-3-(2-(N,N-bis(carboxymethyl)aminosulfonyl)phenylsulfonyloxy) Phenoxy]propoxyguanidine | 87% yield | CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CC(=O)O)CC(=O)O | C21H26N4O11S2
